US05780482
A mixture of 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine (2.0 g), 5-aminopyridin-2-ol (1.0 g) and IMS (20 ml) was boiled under reflux for 2 hours. The mixture was cooled and filtered to give 5-(3-ethoxy-2-methyl-1,8-naphthyridin-5-ylamino)pyridin-2-ol hydrochloride sesquihydrate, m.p. 295°-300° C.

reactant | 5-chloro-3-ethoxy-2-methyl-1,8-naphthyridine | 2.0 g | ClC1=C2C=C(C(=NC2=NC=C1)C)OCC | C11H11ClN2O
reactant | 5-aminopyridin-2-ol | 1.0 g | NC=1C=CC(=NC1)O | C5H6N2O
product | 5-(3-ethoxy-2-methyl-1,8-naphthyridin-5-ylamino)pyridin-2-ol hydrochloride sesquihydrate | O.Cl.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC=1C=CC(=NC1)O)C.O.O.C(C)OC=1C(=NC2=NC=CC(=C2C1)NC=1C=CC(=NC1)O)C.Cl | InChI=1S/2C16H16N4O2.2ClH.3H2O/c2*1-3-22-14-8-12-13(6-7-17-16(12)19-10(14)2)20-11-4-5-15(21)18-9-11;;;;;/h2*4-9H,3H2,1-2H3,(H,18,21)(H,17,19,20);2*1H;3*1H2
